US09278085B2
Zirconocene dichloride (1.66 g, 5.6 mmol) was treated with dichloroethane (22 mL) and trimethylaluminum solution (23 mmol, 2.0 M in heptane) was added. The clear yellow solution was stirred for 0.75 h and cooled to 0° C. 5-chloro-1-pentyne was added neat over 1 h at 0° C. and stirred 10 h at room temperature. The clear brown solution was concentrated in vacuo and triturated with anhydrous hexanes (3×5 mL), the solvent being removed after each iteration via vacuum. Hexanes (10 mL) was then added and the solution cannulated away from the solids. The solids were rinsed with hexanes (5 mL) and the combined hexane solutions diluted with THF (80 mL). A prepared solution of 1-(chloromethyl)-2,5-dimethoxy-3,4,6-trimethylbenzene (4.009 g, 17.5 mmol) in THF (10 mL) was added to the vinyl alane via cannula and the combined solution cooled to 10° C. The catalyst was prepared by treating bis-(triphenylphosphine)nickel dichloride (579 mg, 0.87 mmol) in THF (5 mL) with n-BuLi (1.6 M in hexanes, 1.75 mmol). The blood-red clear catalyst solution was then added via cannula to the 10° C. vinyl alane solution and let warm to room temperature over 7 h. The reaction was cooled to 0° C. and quenched by slow addition of 2.5 M HCl (100 mL) over 0.5 h followed by hexanes (100 mL) and separation. The aqueous layer was extracted 2×100 mL hexanes, 1×50 mL 50% EtOAc/hexanes and the combined organics washed once with brine (100 mL) and dried over anhydrous Na2SO4 and concentrated to a brown oil. Multiple flash chromatography yielded 5.2 g of (E)-1-(7-chloro-3-methylhept-2-enyl)-2,5-dimethoxy-3,4,6-trimethylbenzene as a clear oil (94.6%). 1H NMR (400 MHz, CDCl3) d 5.05 (t, J=6.4 Hz, 1H), 3.63 (S, 6H), 3.49 (t, J=6.4 Hz, 2H), 3.35 (d, J=8.4 Hz, 1H), 2.16 (s, 9H), 1.98 (t, J=7.6 Hz, 2H), 1.76 (s, 3H), 1.70 (m, 2H), 1.52 (m, 2H). 13C NMR (100 MHz, CDCl3) d 153.0, 152.7, 134.4, 131.4, 128.3, 127.9, 127.6, 123.8, 60.9, 60.1, 45.0, 38.8, 32.2, 26.1, 25.1, 16.1, 12.8, 12.7, 12.2.

reactant | dichloroethane | 22 mL | ClC(C)Cl | C2H4Cl2
reactant | trimethylaluminum | 23 mmol, 2.0 M | C[Al](C)C
reactant | 5-chloro-1-pentyne | ClCCCC#C | C5H7Cl
reactant | 1-(chloromethyl)-2,5-dimethoxy-3,4,6-trimethylbenzene | 17.5 mmol, 4.009 g | ClCC1=C(C(=C(C(=C1C)OC)C)C)OC | C12H17ClO2
reactant | n-BuLi | 1.75 mmol, 1.6 M | [Li]CCCC
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
catalyst | Zirconocene dichloride | 5.6 mmol, 1.66 g | [Cl-].[Cl-].[CH-]1C=CC=C1.[CH-]1C=CC=C1.[Zr+2]
catalyst | bis-(triphenylphosphine)nickel dichloride | 0.87 mmol, 579 mg | Cl[Ni]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | (E)-1-(7-chloro-3-methylhept-2-enyl)-2,5-dimethoxy-3,4,6-trimethylbenzene | 5.2 g, 94.6% | ClCCCC/C(=C/CC1=C(C(=C(C(=C1C)OC)C)C)OC)/C | C19H29ClO2
